US05352793
3-Benzoyl pyridine was reacted with 1-bromo-2-propene according to the procedure of Part a) of Example 4 to give 1-(2-propenyl)-3-benzoyl pyridinium bromide as a tan coloured crystalline solid.

reactant | 3-Benzoyl pyridine | C(C1=CC=CC=C1)(=O)C=1C=NC=CC1 | C12H9NO
reactant | 1-bromo-2-propene | BrCC=C | C3H5Br
product | 1-(2-propenyl)-3-benzoyl pyridinium bromide | [Br-].C(C=C)[N+]1=CC(=CC=C1)C(C1=CC=CC=C1)=O | InChI=1S/C15H14NO.BrH/c1-2-10-16-11-6-9-14(12-16)15(17)13-7-4-3-5-8-13;/h2-9,11-12H,1,10H2;1H/q+1;/p-1
